US07723333B2
tert-Butyl [1-(6-chloropyridazin-3-yl)piperidin-4-yl]carbamate
tert-Butyl piperidin-4-ylcarbamate (2 g, 10 mmol), 3,6-dichloropyridazine (1.79 g, 12 mmol) and TEA (2.1 ml, 15 mmol) was dissolved in dry DMF (30 ml) and the reaction mixture was heated in a microwave reactor at 150° C. for 20 mins. The reaction mixture was diluted with water (300 ml) and extracted with EtOAc (300 ml). The organic phase was dried (Na2SO4), filtrated and evaporated. The residue was purified by silica gel column chromatography using a 98:2 mixture of DCM:MeOH to give the title compound (2.11 g, 68%) as a solid. 1H-NMR (CDCl3, 500 MHz): δ 7.19 (d, 1H), 6.91 (d, 1H), 4.48 (bs, 1H), 4.29-4.20 (m, 2H), 3.73 (bs, 1H), 3.14-3.04 (m, 2H), 2.10-2.02 (m, 2H), 1.49-1.38 (m, 2H), 1.45 (s, 9H); 13C-NMR (CDCl3, 125 MHz): δ 158.9, 155.2, 146.7, 128.9, 115.5, 79.6, 47.9, 44.4, 31.9, 28.5.

reactant | tert-Butyl piperidin-4-ylcarbamate | 10 mmol, 2 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 3,6-dichloropyridazine | 12 mmol, 1.79 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | 300 ml | O | H2O
product | tert-Butyl [1-(6-chloropyridazin-3-yl)piperidin-4-yl]carbamate | 2.11 g, 68% | ClC1=CC=C(N=N1)N1CCC(CC1)NC(OC(C)(C)C)=O | C14H21ClN4O2
